US04459150
A solution of sec-butyl lithium (350 ml; 12% in cyclohexane) was added over a period of 1 hour to a stirred mixture of hexafluorobenzene (80 g) in cyclohexane (750 ml) at a temperature of 0° C. On warming the reaction mixture above 0° C. a violently exothermic reaction took place which was brought under control by external cooling (Cardice-acetone). The reaction mixture was subsequently brought to room temperature (no further reaction occurred) and was quenched with water (600 ml). The organic layer was separated, washed with dilute hydrochloric acid (2N; 2×200 ml) and water (2×200 ml) and dried over anhydrous magnesium sulphate, and afterwards distilled through a 15 cm vigreux column. The fraction distilling at 160°-170° C. was collected to give sec-butylpentafluorobenzene (50.3 g), b.p. 162°-164° C. (760 mm), in the form of a colourless liquid.

reactant | sec-butyl lithium | 350 ml | C(C)(CC)[Li]
reactant | hexafluorobenzene | 80 g | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | Cardice acetone | C(=O)=O.CC(=O)C
solvent | cyclohexane | 750 ml | C1CCCCC1 | C6H12
product | sec-butylpentafluorobenzene | 50.3 g | C(C)(CC)C1=C(C(=C(C(=C1F)F)F)F)F | C10H9F5
